US09315521B2
To a suspension of LAH (0.805 g, 21.22 mmol) in anhydrous THF (20 mL) at 0° C. was added a dropwise a solution of ethyl 3,5-diethylpyridine-4-carboxylate (2.20 g, 10.61 mmol) in THF (30 mL). After stirring for 1 hour, the reaction mixture was slowly quenched with 15% NaOH solution and then diluted with water. Ethyl acetate was added, the mixture was stirred for 10 minutes, and the precipitated white solid was filtered off. The solid was washed with ethyl acetate (2×50 mL). The combined organic layers were dried over anhydrous sodium sulfate and filtered. The filtrate was evaporated to provide (3,5-diethylpyridin-4-yl)methanol as a thick oil (1.50 g, 86% yield) which was used for the next step without any further purification; 1H NMR (400 MHz, DMSO-d6): δ 1.15 (t, 611), 2.70 (q, 4H), 4.50 (s, 2H), 5.06 (bs, 1H), 8.22 (s, 2H), M+208.5; M+166.2.

reactant | LAH | 21.22 mmol, 0.805 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 3,5-diethylpyridine-4-carboxylate | 10.61 mmol, 2.20 g | C(C)C=1C=NC=C(C1C(=O)OCC)CC | C12H17NO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (3,5-diethylpyridin-4-yl)methanol | 1.50 g, 86% yield | C(C)C=1C=NC=C(C1CO)CC | C10H15NO
